Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
vaginal bleeding
 
Major Surgical or Invasive Procedure:
-dilation and curettage

 
History of Present Illness:
Ms. ___ is a ___ G2P1 at 13w2d by LMP with MAB diagnosed in 
Dr. ___ office on ___ (gestational sac measuring 9w4d) 
and presented to the ED ___ with bleeding and abdominal 
cramping.  She was noted to have thrombocytopenia of unclear 
etiology at her clinic visit on ___, platelets 57.  
Patient reports passing pregnancy tissue at home, however had 
persistent bleeding and cramping. Denies dizziness or 
lightheadedness.  Denies CP/SOB. Denies N/V. Denies F/C. Denies 
GI or urinary symptoms. 

Ms. ___ was not aware of any previous diagnosis of 
thrombocytopenia, however does note easy bruising.  She reports 
that her mother also has easy bruising and has had multiple 
blood transfusions.  

 
Past Medical History:
GynHx:
LMP: ___
Regular menses
Denies STIs
H/o abnl Pap with colpo, nl f/u
Sexually active, monogamous male partner

___: ___ ___, full term, 7#5, c/b GHTN

PMH: Anxiety

PSH: None

 
Social History:
Engaged. + social tob. + social EtOH. No drugs.

 
Physical Exam:
PE: VS:T 98.7 BP 133/76 HR 86 RR 16 O2Sat 100%RA
NAD
RRR
CTAB
Abd soft, ND, mild suprapubic tenderness to palpation, no
significant tenderness, no rebound/guarding
Pelvic deferred
Peripad with scant blood
Ext NTNE

 
Pertinent Results:
___ 05:04PM BLOOD Hapto-192
___ 05:04PM BLOOD Lipase-19
___ 05:04PM BLOOD ALT-29 AST-29 LD(LDH)-227 AlkPhos-57 
TotBili-0.2
___ 05:04PM BLOOD Glucose-82 UreaN-12 Creat-0.6 Na-137 
K-3.7 Cl-101 HCO3-25 AnGap-15
___ 05:04PM BLOOD WBC-5.4 RBC-4.10* Hgb-12.3 Hct-36.0 
MCV-88 MCH-30.0 MCHC-34.2 RDW-13.9 Plt Ct-43*
___ 02:25AM BLOOD WBC-4.4 RBC-4.06* Hgb-12.1 Hct-35.7* 
MCV-88 MCH-29.7 MCHC-33.8 RDW-13.1 Plt Ct-36*
___ 06:06AM BLOOD WBC-5.2 RBC-3.84* Hgb-11.6* Hct-33.5* 
MCV-87 MCH-30.2 MCHC-34.6 RDW-13.2 Plt Ct-46*
___ 02:30PM BLOOD WBC-5.9 RBC-4.12* Hgb-12.3 Hct-36.1 
MCV-88 MCH-29.9 MCHC-34.1 RDW-13.3 Plt Ct-51*
 
Brief Hospital Course:
Ms. ___ received a 6 pack of platelets and 60mg solumedrol IV 
in the ED after consultation with Hematology. She was also 
treated with kefzol IV x 1. A pelvic ultrasound in the ED noted 
vascularized retained products of conception. She was taken to 
the OR for a dilation and currettage which was uncomplicated; 
see operative report for more details. She was admitted to the 
Gynecology service and started on methergine po for 2 days. The 
following day, Hematology thought Ms. ___ had 
idiopathic thrombocytopenia. They recommended prednisone 75 mg 
daily, in 1 dose or in 2 divided doses.  Social work was also 
consulted due to help with patient coping.
Her hematocrit remained stable throughout her stay. Her 
platelets varied as follows: 43 -> 36 -> 46. Please see 
laboratory results section for more detail. Ms. ___ was 
discharged to home on post operative day 1 in good condition.

 
Medications on Admission:
Prenatal vitamin
 
Discharge Medications:
1. prednisone 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
please take after breakfast.
Disp:*30 Tablet(s)* Refills:*0*
2. prednisone 20 mg Tablet Sig: One (1) Tablet PO once a day: 
please take after lunch (total of 25mg after lunch).
Disp:*30 Tablet(s)* Refills:*0*
3. prednisone 5 mg Tablet Sig: One (1) Tablet PO once a day: 
please take after lunch (total of 25mg after lunch).
Disp:*30 Tablet(s)* Refills:*0*
4. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*0*
5. methylergonovine 0.2 mg Tablet Sig: One (1) Tablet PO QID (4 
times a day) for 2 days: take one pill every 6 hours until ___.
Disp:*6 Tablet(s)* Refills:*0*
6. oxycodone 5 mg Tablet Sig: ___ Tablets PO every six (6) hours 
as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
7. nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).
Disp:*14 Patch 24 hr(s)* Refills:*0*
8. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for anxiety: please take only as infrequently as 
possible.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-retained products of conception
-thrombocytopenia (low platelets)
-desires to quit smoking

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
*please make and keep your follow up appointments
*do not drive while taking narcotics
*nothing in the vagina for 2 weeks (no tampons or intercourse)
*no baths/swimming for 1 week

*please call your doctor with any questions or concerns
 
Followup Instructions:
___